* Butterworth-Van Dyke model of `comb_resonator` - generated by soidlc
* bias V_dc = 30 V; series resonance = 21162.1 Hz
* motional branch: Rm=9.3792e+07 Lm=3.1669e+05 Cm=1.7860e-16
.subckt comb_resonator_rom drive sense gnd
Lm drive n1 3.1669e+05
Cm n1   n2 1.7860e-16
Rm n2   sense 9.3792e+07
C0d drive gnd 1.4300e-13
C0s sense gnd 2.0188e-13
Cft drive sense 1.4300e-15
.ends
